US08012956B2
A mixture of ethyl 3-bromo-4-cyanobenzoate (500 mg, 2.08 mmol), 2-methylpropan-1-amine (250 μL, 4.16 mmol), Pd2(dba)3 (96 mg, 5 mol %), Xantphos (120 mg, 10 mol %) and potassium phosphate (959 mg, 4.16 mmol) in dioxane (10 mL) was stirred for overnight at 95° C. After cooling to room temperature the mixture was diluted with water and extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate, filtered, and concentrated followed by column chromatography (10% ethyl acetate in hexanes) to give ethyl 4-cyano-3-[(2-methylpropylamino)]benzoate (393 mg, 76.7%) as a yellow solid. 1MS (EI) for C14H18N2O2: 247.1 (MH+).

reactant | ethyl 3-bromo-4-cyanobenzoate | 2.08 mmol, 500 mg | BrC=1C=C(C(=O)OCC)C=CC1C#N | C10H8BrNO2
reactant | 2-methylpropan-1-amine | 4.16 mmol, 250 μL | CC(CN)C | C4H11N
reactant | Xantphos | 120 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | potassium phosphate | 4.16 mmol, 959 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
catalyst | Pd2(dba)3 | 96 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | ethyl 4-cyano-3-[(2-methylpropylamino)]benzoate | 393 mg, 76.7% | C(#N)C1=C(C=C(C(=O)OCC)C=C1)NCC(C)C | C14H18N2O2
